US07495110B2
Stage 4: N,N-diisobutyl-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-2-[(3,4,5-trimethoxyphenyl)amino]-1H-benzimidazole-5-carboxamide hydrochloride
3,4,5 trimethoxyphenylisothiocyanate (27 mg, 1.2 eq) and N-methylcyclohexylcarbodiimide-N-methyl-polystyrene resin (acquired from Novabiochem; load 1.69 mmol/g, 236 mg, 4 eq) are added successively to a solution of 3-amino-N,N-diisobutyl-4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)benzamide (48 mg, 1 eq) in tetrahydrofuran (2 ml). The mixture is heated under reflux for 18 hours then cooled down to ambient temperature and aminomethyl polystyrene resin (acquired from Novabiochem, 2 eq) is added. After stirring for 4 hours at ambient temperature, the mixture is filtered on frit and the filtrate is concentrated under reduced pressure at 40° C. The residue obtained is dissolved in ethyl ether and a solution of 1N HCl in ethyl ether is added dropwise in order to produce the expected compound in the form of the hydrochloride salt (80 mg, 89% yield).

reactant | 3,4,5 trimethoxyphenylisothiocyanate | 27 mg, 1.2 eq | COC=1C=C(C=C(C1OC)OC)N=C=S | C10H11NO3S
reactant | 3-amino-N,N-diisobutyl-4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)benzamide | 48 mg, 1 eq | NC=1C=C(C(=O)N(CC(C)C)CC(C)C)C=CC1NCCCN(CCC1=NC=CC=C1)C | C26H41N5O
reactant | aminomethyl polystyrene resin | 2 eq | N | H3N
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | N,N-diisobutyl-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-2-[(3,4,5-trimethoxyphenyl)amino]-1H-benzimidazole-5-carboxamide hydrochloride | Cl.C(C(C)C)N(C(=O)C1=CC2=C(N(C(=N2)NC2=CC(=C(C(=C2)OC)OC)OC)CCCN(CCC2=NC=CC=C2)C)C=C1)CC(C)C | InChI=1S/C36H50N6O4.ClH/c1-25(2)23-41(24-26(3)4)35(43)27-13-14-31-30(20-27)39-36(38-29-21-32(44-6)34(46-8)33(22-29)45-7)42(31)18-11-17-40(5)19-15-28-12-9-10-16-37-28;/h9-10,12-14,16,20-22,25-26H,11,15,17-19,23-24H2,1-8H3,(H,38,39);1H
